US05466397
5-(3-Hydroxy-4-methoxyphenyl)-3-(3-hydroxy-4-methoxystyryl)-1-(4-nitrophenyl)-4,5-dihydropyrazole (I)
To a stirred mixture of 1,5-bis(3-hydroxy-4-methoxyphenyl)-1,4-pentadien-3-one (29.6 g, 90.8 mmol), absolute ethanol (220 mL), and 4-nitrophenylhydrazine (16.8 g, 100 mmol for 90 percent purity, 10 percent water) was added conc. HCl (20 mL), and the mixture was stirred and heated at reflux for 24 hours. The mixture was then stirred at room temperature for 16 hours, and the orange crystals that formed were removed by filtration. The product was washed with ethanol and hexane, and dried in a vacuum oven at 90°-100° C. for 12 hours. The product was obtained as orange-red microcrystals (37.2 g, 97.4 percent yield) mp 215°-217° C.; 1H NMR (DMSO-d6) δ9.09 (s, 2H), 8.05 (d, 2H, J=9.5 Hz), 7.06-6.61 (m, 10H), 5.52 (dd, 1H, J1=11.6 Hz, J2= 4.1 Hz,), 3.80 (s, 3H), 3.76 (m, 1H), 3.73 (s, 3H), and 3.07 (m, 1H).

reactant | 1,5-bis(3-hydroxy-4-methoxyphenyl)-1,4-pentadien-3-one | 90.8 mmol, 29.6 g | OC=1C=C(C=CC1OC)C=CC(C=CC1=CC(=C(C=C1)OC)O)=O | C19H18O5
reactant | 4-nitrophenylhydrazine | 100 mmol, 16.8 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | HCl | 20 mL | Cl | ClH
solvent | ethanol | 220 mL | C(C)O | C2H6O
product | 5-(3-Hydroxy-4-methoxyphenyl)-3-(3-hydroxy-4-methoxystyryl)-1-(4-nitrophenyl)-4,5-dihydropyrazole | 97.4 percent yield | OC=1C=C(C=CC1OC)C1CC(=NN1C1=CC=C(C=C1)[N+](=O)[O-])C=CC1=CC(=C(C=C1)OC)O | C25H23N3O6
